### PR TITLE
Setup the Infinite conditional sums API

### PR DESCRIPTION
**Pull request by CBirkbeck**
This is an attempt to develop some conditional infinite sum API. See **[here](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2329602.20Infinite.20conditional.20sums.20API/with/540779469)** for a discussion. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/WithDensity.lean [hunk 1]
```diff
@@ -155,21 +155,22 @@ lemma withDensity_sub_add_cancel [IsSFiniteKernel κ] {f g : α → β → ℝ
...
+  have h_sum : Summable fun n => f n := Pi.summableFilter.mpr h_sum_a
   ext a s hs
   rw [sum_apply' _ a hs, Kernel.withDensity_apply' κ _ a s]
   swap
   · have : Function.uncurry (∑' n, f n) = ∑' n, Function.uncurry (f n) := by
       ext1 p
       simp only [Function.uncurry_def]
-      rw [tsum_apply h_sum, tsum_apply (h_sum_a _), tsum_apply]
-      exact Pi.summable.mpr fun p => ENNReal.summable
+      rw [tsum, tsum, tsum_apply h_sum, tsum_apply (h_sum_a _), tsum_apply]
```
Comment (CBirkbeck) [inline Mathlib/Probability/Kernel/WithDensity.lean:167]: can I avoid opening up `tsum` here?

File: Mathlib/Topology/Algebra/InfiniteSum/Field.lean [hunk 2]
```diff
@@ -20,15 +20,16 @@ section NormMulClass
 variable {α E : Type*} [SeminormedCommRing E] [NormMulClass E] [NormOneClass E]
  {f : α → E} {x : E}
 
+--the .notation seems to not be working here. Why?
```
Comment (CBirkbeck) [inline Mathlib/Topology/Algebra/InfiniteSum/Field.lean:23]: why does the .notation not work here?

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 3]
```diff
@@ -143,83 +146,92 @@ protected theorem Multipliable.le_tprod (hf : Multipliable f) (i : ι) (hb : ∀
 @[to_additive existing, deprecated (since := "2025-04-12")] alias le_tprod := Multipliable.le_tprod
 
 @[to_additive (attr := gcongr)]
-protected theorem Multipliable.tprod_le_tprod (h : ∀ i, f i ≤ g i) (hf : Multipliable f)
-    (hg : Multipliable g) : ∏' i, f i ≤ ∏' i, g i :=
-  hasProd_le h hf.hasProd hg.hasProd
+protected theorem MultipliableFilter.tprodFilter_le_tprodFilter (h : ∀ i, f i ≤ g i) [L.NeBot]
```
Comment (CBirkbeck) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean:149]: how do I make the gcongr attribute apply to the `tsum_le_tsum` case? Do we just need a version of this lemma in that case?

File: Mathlib/Topology/Algebra/InfiniteSum/Order.lean [hunk 4]
```diff
@@ -403,7 +417,7 @@ requires more assumptions. -/
 @[positivity tsum _]
 def evalTsum : PositivityExt where eval {u α} zα pα e := do
   match e with
-  | ~q(@tsum _ $instCommMonoid $instTopSpace $ι $f) =>
+    | ~q(@tsumFilter _ $instCommMonoid $instTopSpace $ι $L $f ) =>
```
Comment (CBirkbeck) [inline Mathlib/Topology/Algebra/InfiniteSum/Order.lean:420]: I've never had to update tactics, can someone more experience check that this is ok?

File: Mathlib/Probability/Kernel/WithDensity.lean [hunk 5]
```diff
@@ -216,15 +217,15 @@ theorem isSFiniteKernel_withDensity_of_isFiniteKernel (κ : Kernel α β) [IsFin
...
       suffices ∀ n, n ∉ Finset.range ⌈(f a b).toReal⌉₊ → fs n a b = 0 from
         summable_of_ne_finset_zero this
       intro n hn_notMem
       rw [Finset.mem_range, not_lt] at hn_notMem
       exact h_zero a b n hn_notMem
     ext a b : 2
-    rw [tsum_apply (Pi.summable.mpr h_sum_a), tsum_apply (h_sum_a a),
-      ENNReal.tsum_eq_liminf_sum_nat]
+    rw [tsum, tsum_apply (Pi.summableFilter.mpr h_sum_a), tsum_apply (h_sum_a a),
+      ← tsum_iff_tsumFilter, ENNReal.tsum_eq_liminf_sum_nat]
```
Comment (CBirkbeck) [inline Mathlib/Probability/Kernel/WithDensity.lean:228]: This is something I keep running into. I have a result that works more generally for sums along a filter, followed by something that holds for unconditionally convergent sums, so I keep having to do things like `← tsum_iff_tsumFilter` to fold things up again. Is there a way to make it not need this iff lemma and the multipliable/hasprod versions?

**Comment by loefflerd** [comment]
"Files changed: 135" – !?

I'm wondering what's going on here. Was this just an accidental, over-enthusiastic search-and-replace that far exceeded its intended target? Or are these huge sweeping changes intentional? I would have hoped it would be possible to introduce this new functionality, without needing to make changes to all the code that uses the existing `HasSum` etc.

**Comment by CBirkbeck** [comment]
> "Files changed: 135" – !?
> 
> I'm wondering what's going on here. Was this just an accidental, over-enthusiastic search-and-replace that far exceeded its intended target? Or are these huge sweeping changes intentional? I would have hoped it would be possible to introduce this new functionality, without needing to make changes to all the code that uses the existing `HasSum` etc.

So it might be easier to discuss this on the PR review [thread](https://leanprover.zulipchat.com/#narrow/channel/144837-PR-reviews/topic/.2329602.20Infinite.20conditional.20sums.20API/with/540779469).  But yes it's mostly search and replace. But I have also generalised the code in some places. Since we wanted to keep 'Summable' etc, this seemed the way to do this. We could do less search and replace but it might need more duplication between the filter and non filter versions.

**Comment by loefflerd** [comment]
I propose we close this PR since it has been overtaken by #29914 .
